US06492403B1
A stirred solution of 40 mg (0.084 mmol) of 2-{3-[2-(5-{[(tert-butoxy)carbonylamino]iminomethyl}-2-methyl-3-thienyl)-1,3-thiazol-4-yl]phenoxy}acetic acid dissolved in dry dimethylformamide (5 mL) was treated with hydroxybenzotriazole (23 mg, 0.17 mmol), 32 mg (0.17 mmol) of N-tert-butoxycarbonyl-piperazine (Lancaster, Windham, N.H., USA), 65 mg (0.17 mmol) of O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HATU) at room temperature for 20 h. The mixture was partitioned between dichloromethane (50 mL) and brine (50 mL). The aqueous layers were extracted twice with dichloromethane (50 mL) and the combined organic layers were washed with brine (50 mL) and dried over anhydrous sodium sulfate. The solvents were removed in vacuo. Purification preparative thin layer chromatography eluting with dichloromethane:methanol 95/5 (v:v) gave tert-butyl 4-(2-{3-[2-(5-{[(tert-butoxy)carbonylamino]iminomethyl}-2-methyl-3-thienyl)-1,3-thiazol-4-yl]phenoxy}acetyl)piperazinecarboxylate (25 mg, 46%) as a white solid. 1H-NMR (DMSO-d6; 300 MHz) δ9.13 (br s, 2H), 8.50 (s, 1H), 8.20 (s, 1H), 7.63 (m, 2H), 7.39 (m, 1H), 6.95 (m, 1H), 4.93 (s, 2H), 3.47-3.34 (m, 8H), 2.82 (s, 3H), 1.45 (s, 9H), 1.42 (s, 9H). Mass spectrum (ESI, m/z): Calcd. for C31H39N5O6S2 642.3 (M+H), 542.3 ((M-BOC)+H), 442.3 ((M-2 BOC)+H), found 642.0, 542.2, 442.3.

reactant | 2-{3-[2-(5-{[(tert-butoxy)carbonylamino]iminomethyl}-2-methyl-3-thienyl)-1,3-thiazol-4-yl]phenoxy}acetic acid | 0.084 mmol, 40 mg | C(C)(C)(C)OC(=O)NN=CC1=CC(=C(S1)C)C=1SC=C(N1)C=1C=C(OCC(=O)O)C=CC1 | C22H23N3O5S2
reactant | hydroxybenzotriazole | 0.17 mmol, 23 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | N-tert-butoxycarbonyl-piperazine | 0.17 mmol, 32 mg | C(C)(C)(C)OC(=O)N1CCNCC1 | C9H18N2O2
reactant | O-(7-azabenzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.17 mmol, 65 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1N=CC=C2)OC(=[N+](C)C)N(C)C
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | tert-butyl 4-(2-{3-[2-(5-{[(tert-butoxy)carbonylamino]iminomethyl}-2-methyl-3-thienyl)-1,3-thiazol-4-yl]phenoxy}acetyl)piperazinecarboxylate | 25 mg, 46% | C(C)(C)(C)OC(=O)NN=CC1=CC(=C(S1)C)C=1SC=C(N1)C=1C=C(OCC(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=CC1 | C31H39N5O6S2
